US04981992
In a 100 ml-volume stainless steel autoclave whose atmosphere had been displaced with nitrogen was added a solution of 2.21 g (10 mmole) of methyl 2-(N-chloroacetylamino)methyl-3-oxobutanoate and 180 mg (0.1 mmol) of Ru2Cl4 ((+)-T-BINAP)2NEt3 in 20 ml of methylene chloride, and a reaction was conducted at 50° C. under a hydrogen pressure of 100 kg/cm2 for 20 hours. The reaction mixture was concentrated under reduced pressure of 20 mmHg and purified by silica gel chromatography using a 8/2 (by volume) mixture of hexane and isopropanol as an eluent to obtain 1.78 g (yield: 80%) of methyl (2S, 3R)-2-(N-chloroacetylamino)methyl-3-hydroxybutanoate having an optical purity of 95 %ee as determined in the same manner as in Example 2.

reactant | methyl 2-(N-chloroacetylamino)methyl-3-oxobutanoate | 10 mmole, 2.21 g | ClCC(=O)NCC(C(=O)OC)C(C)=O | C8H12ClNO4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl (2S, 3R)-2-(N-chloroacetylamino)methyl-3-hydroxybutanoate | 1.78 g, yield: 80% | ClCC(=O)NC[C@H](C(=O)OC)[C@@H](C)O | C8H14ClNO4
